US06093732
N-[(4-Chlorophenyl)methyl]-4-hydroxy-6-methoxy-3-quinoline-carboxamide
A mixture of 320 mg of ethyl 4-hydroxy-6-methoxy-3-quinolinecarboxylate (J. Amer. Chem. Soc., 68, 1204 (1946)) and 1.0 mL of 4-chlorobenzylamine is stirred for 1 h at 210° C. The mixture is cooled to 25° C. and it is diluted with 2.0 mL of toluene. The mixture is filtered and the filtrant is dissolved in a minimum volume of refluxing glacial acetic acid. The hot solution is treated with distilled water dropwise until it becomes cloudy, and it is allowed to cool to 25° C. The precipitate is collected by filtration and it is washed with a small amount of dilute aqueous acetic acid. It is dried in a stream of air and then it is dissolved in 7 mL of refluxing acetonitrile. The solution is allowed to cool to 25° C. and after an additional 2 h the precipitate is collected by filtration. The solid is dried for 48 h at torr and 85° C. This procedure gives the title compound as 64 mg of a light tan solid.

reactant | ethyl 4-hydroxy-6-methoxy-3-quinolinecarboxylate | 320 mg | OC1=C(C=NC2=CC=C(C=C12)OC)C(=O)OCC | C13H13NO4
reactant | 4-chlorobenzylamine | 1.0 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-[(4-Chlorophenyl)methyl]-4-hydroxy-6-methoxy-3-quinoline-carboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=CC=C(C=C2C1O)OC | C18H15ClN2O3
